US05472984
In 1.5 ml of methanol was dissolved 270 mg of 1-(benzo[b]thiophen-5-yl)-2-[(1,4-diformylpiperazin-2-yl)methoxy]ethanol. To the solution was added 1.5 ml of a 5N dry hydrogen chloride-ethanol solution. The resulting mixture was allowed to stand at room temperature overnight. The resulting crystals were collected by filtration, washed with ethanol, and dried to obtain 150 mg of 1-(benzo[b]thiophen-5-yl)-2[-(piperazin-2-yl)methoxy]ethanol dihydrochloride (compound No. 355).

reactant | 1-(benzo[b]thiophen-5-yl)-2-[(1,4-diformylpiperazin-2-yl)methoxy]ethanol | 270 mg | S1C2=C(C=C1)C=C(C=C2)C(COCC2N(CCN(C2)C=O)C=O)O | C17H20N2O4S
reactant | hydrogen chloride ethanol | 5N | Cl.C(C)O
solvent | methanol | 1.5 ml | CO | CH4O
product | 1-(benzo[b]thiophen-5-yl)-2[-(piperazin-2-yl)methoxy]ethanol dihydrochloride | 150 mg | Cl.Cl.S1C2=C(C=C1)C=C(C=C2)C(COCC2NCCNC2)O | InChI=1S/C15H20N2O2S.2ClH/c18-14(10-19-9-13-8-16-4-5-17-13)11-1-2-15-12(7-11)3-6-20-15;;/h1-3,6-7,13-14,16-18H,4-5,8-10H2;2*1H
